US07601844B2
N-(1-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-1-oxobut-2-en-2-yl)benzamide
A reaction vessel was charged with N-benzoyl-L-threonine (56 mg), HOBt (42 mg), DIEA (130 μL), 4-(4-chlorophenyl)-4-hydroxypiperidine (66 mg), EDC (60 mg), DMF (1 mL) and 1,2-dichloroethane (1 mL). The reaction mixture was stirred for 16 h at rt and then diluted with methanol (0.5 mL). Upon completion of dilution, the reaction mixture was purified by preparative LC-MS to provide Example 226. MS found: (M+H)+=399.

reactant | N-benzoyl-L-threonine | 56 mg | C(C1=CC=CC=C1)(=O)N[C@@H]([C@H](O)C)C(=O)O | C11H13NO4
reactant | HOBt | 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 130 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 66 mg | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
solvent | methanol | 0.5 mL | CO | CH4O
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 60 mg
product | N-(1-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-1-oxobut-2-en-2-yl)benzamide | ClC1=CC=C(C=C1)C1(CCN(CC1)C(C(=CC)NC(C1=CC=CC=C1)=O)=O)O | C22H23ClN2O3
